US08212041B2
(4-bromo-2-chlorophenyl)methanol
To a stirring solution of 4-bromo-2-chlorobenzoic acid (11.1 g, 47 mmol) in THF (100 mL) at 0° C. under nitrogen was added borane-methyl sulfide complex (9.4 ml, 94 mmol) via syringe over 10 min. Gas evolution quite evident. Ice bath removed, and once gas evolution subsided reaction gently heated to reflux for 1 h. Reaction slowly quenched with MeOH (50 mL) and 2M HCl (20 mL). Aqueous extracted with 9:1 CHCl3/IPA (150 mL). Organic dried with sat NH4Cl, MgSO4, then concentrated to a colorless oil under reduced pressure. Product crystallized after 1 week sitting neat.

reactant | 4-bromo-2-chlorobenzoic acid | 47 mmol, 11.1 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4-bromo-2-chlorophenyl)methanol | BrC1=CC(=C(C=C1)CO)Cl | C7H6BrClO
